US07084163B2
Methyl-4-methoxy-5-methoxycarbonyl-nicotinate
To a solution of 6.3 g (27.5 mmol) of methyl-4-chloro-5-methoxycarbonyl-nicotinate in 100 ml of THF is added 6.48 ml (35 mmol) of a 5.4 m solution of sodium methoxide in methanol. The mixture is stirred for 10 minutes and evaporated. 100 ml of a 0.25M aqueous HCl is added to the residue. The solution is made basic with K2CO3 and extracted with ethyl acetate. The organic phase is dried and evaporated to give an oil which crystallised on cooling. There is obtained 6,2 g (quantitative yield) of a solid (M+1=226).

reactant | methyl-4-chloro-5-methoxycarbonyl-nicotinate | 27.5 mmol, 6.3 g | COC(C1=CN=CC(=C1Cl)C(=O)OC)=O | C9H8ClNO4
reactant | sodium methoxide | C[O-].[Na+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | methanol | CO | CH4O
product | Methyl-4-methoxy-5-methoxycarbonyl-nicotinate | 6,2 g, quantitative yield | COC(C1=CN=CC(=C1OC)C(=O)OC)=O | C10H11NO5
